US08629271B2
a) 5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde
tert-Butyldimethylsilylchloride (2.82 g) was added portionwise to a stirred solution of 2-(thiophen-2-yl)ethanol (2 g) and imidazole (1.275 g) in DMF (20 mL) at 20° C. over a period of 20 minutes. The mixture was stirred at 20° C. for 18 hours and then partitioned between ethyl acetate and water, the organic layer was washed with water, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified by flash silica chromatography, elution gradient 1-4% ethyl acetate in isohexane. The residue (2.7 g) was dissolved in THF (50 mL) and the solution cooled to −78° C., n-butyllithium (2.5M in hexanes, 5.06 mL) was added dropwise over 10 minutes and the resultant mixture stirred at 0° C. for 1 hour. The reaction mixture was cooled to −78° C. and DMF (5.7 mL) was added dropwise over 5 minutes. The mixture was stirred at 20° C. for 3 hours. The reaction mixture was partitioned between water and ethyl acetate, the organic layer was washed with water, dried over sodium sulphate and the solvent removed under reduced pressure. The crude product was purified by flash silica chromatography, eluting with 7% ethyl acetate in isohexane. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 2.3 g.

reactant | tert-Butyldimethylsilylchloride | 2.82 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 2-(thiophen-2-yl)ethanol | 2 g | S1C(=CC=C1)CCO | C6H8OS
reactant | imidazole | 1.275 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(S1)C=O | C13H22O2SSi
